data/rdb19/train.csv
rxn,smiles,ea
4018,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[H:31])([H:11])([H:12])[H:13].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25])([H:26])([H:27])[H:28],22.56254130677553
5413,[C:17]([C:18]([C:19]([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([C:3]1[C:4]([H:12])([H:27])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],36.15890790626872
4368,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:19])[H:20])([H:8])([H:9])[H:10].[C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],51.14164977270411
1179,[C:14]([C:15]([C:16](=[C:17]([H:24])[H:25])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:17]([C:16]([C:15]([C:14]([H:18])([H:19])[H:20])([H:21])[H:22])[H:23])([H:24])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10],15.701700002187865
4193,[C:1]([O:2][C:3]([O:4])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:4][H:28])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])[H:27])([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:8])([H:9])[H:10],13.84779702097876
955,[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11].[N:14]([C:15](=[O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([N:14]([H:19])[H:20])([O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],30.934953878168017
5088,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])[H:22])([H:18])([H:19])[H:20].[C:1]([H:5])([H:6])[H:7].[O:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:21],69.74676367739448
1913,[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7].[O:11][H:12]>>[H:9][O:11][H:12].[N:1]([C:2](=[O:3])[C:4](=[C:5][H:10])[H:8])([H:6])[H:7],7.75259340761113
4159,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:21]([C:20]([H:25])[H:26])([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:12])[H:13])([H:9])([H:10])[H:11],20.82128464861308
2692,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:21]([C:20]([H:24])([H:25])[H:26])([C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31],36.14825831644703
3037,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:18]([C:17]([C:16]([H:22])([H:23])[H:24])([H:25])[H:26])([H:19])[O:20][C:21]([H:27])([H:28])[H:29],27.665643434447706
3534,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][C:21]([O:20][C:18]([C:17]([H:23])([H:24])[H:25])=[O:19])([C:22]([H:27])[H:28])[H:26],36.33739159337711
